US07470679B2
To a well stirred solution of (3-amino-2,4-dimethyl-phenyl)-methanol (1.5 g) in methanol (70 mL) and solid sodium hydrogen carbonate (4.0 eq) was added a 1.0 M solution of iodine monochloride dropwise over a period of 5 min at 0° C. The cooling bath was removed after the addition of iodine monochloride. The reaction mixture was brought to room temperature and stirring continued for another 1 h. The reaction mixture was concentrated to remove most of methanol, diluted with dichloromethane (50 mL) and washed with 10% solution of sodium thiosulfate and dried (Na2SO4). The desired compound was purified by trituration with dichloromethane and hexane to give in 1.9 g of iodide. The iodide was then treated with dichloromethane (100 mL) followed by acetic anhydride (4 eq) and catalytic amount of dimethylaminopyridine and stirred for a period of 12 h at room temperature. The reaction mixture was then washed with aqueous sodium hydrogen carbonate, 1.0 M hydrochloric acid and dried (Na2SO4). The desired compound was triturated with dichloromethane and hexane to give acetic acid 3-acetylamino-6-iodo-2,4-dimethyl-benzyl ester in 95% yield. 1H NMR (300 MHz, CDCl3): in δ 7.68 (s, 1H), 6.68 (s, 1H), 2.28 (s, 3H), 2.25 (s, 3H), 2.18 (s, 3H), 2.07 (s, 3H); MS (ESI) 384 (M+Na); Rf=1.12.

reactant | (3-amino-2,4-dimethyl-phenyl)-methanol | 1.5 g | NC=1C(=C(C=CC1C)CO)C | C9H13NO
reactant | sodium hydrogen carbonate | 4.0 eq | C(O)([O-])=O.[Na+]
reactant | iodine monochloride | ICl | ClI
reactant | iodide | [I-]
reactant | acetic anhydride | 4 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methanol | 70 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | acetic acid 3-acetylamino-6-iodo-2,4-dimethyl-benzyl ester | 95% yield | C(C)(=O)NC=1C(=C(COC(C)=O)C(=CC1C)I)C | C13H16INO3
